US05591862
According to the method described for Reference Example 38, 5-[4-[5-methyl-2-(2-naphthyl)-4-oxazolylmethoxy]phenyl]pentyl methanesulfonate was allowed to react with potassium cyanide to give 6-[4-[5-methyl-2-(2-naphthyl)-4-oxazolylmethoxy]phenyl]hexanenitrile. Recrystallization from ethyl acetate--isopropyl ether gave colorless prisms, m.p.116°-117° C.

reactant | 5-[4-[5-methyl-2-(2-naphthyl)-4-oxazolylmethoxy]phenyl]pentyl methanesulfonate | CS(=O)(=O)OCCCCCC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC2=CC=CC=C2C=C1 | C27H29NO5S
reactant | potassium cyanide | [C-]#N.[K+]
product | 6-[4-[5-methyl-2-(2-naphthyl)-4-oxazolylmethoxy]phenyl]hexanenitrile | CC1=C(N=C(O1)C1=CC2=CC=CC=C2C=C1)COC1=CC=C(C=C1)CCCCCC#N | C27H26N2O2
